US05068250
Preparation of N-(4-bromoacetamidophenyl) anthranilic acid (VII).
The aminophenyl anthranilate (50 mg, 0.219 mmol) was dissolved in DMF (distilled from CaH2) and 1.2 equivalents of bromoacetic anhydride added. After stirring for 30 minutes at room temperature in a closed flask, the product was slowly precipitated by the addition of 2 volumes of water. Continued stirring for 15 minutes was followed by filtration of the product. The resulting N-(4-bromoacetamidophenyl)anthranilic acid (VI) could then be crystallized from EtOH/water. N.m.r.: δ(p.p.m.) ([2H]acetone), 4.03 (2H, s, COCH2Br), 6.8-8.8 (8H, m, aryl protons). U.V. maxima, 218.5 nm, ε218.5 =26,800 M-1 cm-1, 299 nm, ε299 =18,600 M-1 cm-1, 355 nm, ε355 =10,700 M-1 cm-1.

reactant | aminophenyl anthranilate | 0.219 mmol, 50 mg | C(C=1C(N)=CC=CC1)(=O)OC1=C(C=CC=C1)N | C13H12N2O2
reactant | bromoacetic anhydride | 1.2 equivalents | BrCC(=O)OC(CBr)=O | C4H4Br2O3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-bromoacetamidophenyl) anthranilic acid | BrCC(=O)NC1=CC=C(C=C1)NC=1C(C(=O)O)=CC=CC1 | C15H13BrN2O3
